US06191250B1
Preparation of Neopentyl Glycol Carbonate-ε-Caprolactone Block Copolymer
6.59 g, (550 mmol) of neopentyl glycol carbonate were measured and introduced into the same apparatus as in Example I-1 under nitrogen atmosphere. 3 ml of dry dichloromethane were introduced through a syringe apparatus, under nitrogen flow. 0.077 ml, (1 mmol) of isopropyl alcohol was then added and then 1 ml of the 0.3mmol/ml dichloromethane solution of 2,6-ditert-butyl-4-methylphenol-bis-substituted titanium-type Lewis acid (A) was then added and the mixture was reacted at 60° C. for 4.0 hours under stirring. It was verified that the monomer had been consumed, and an extremely small amount of sample was taken out. Then, 5.7 g, (50 mmol) of ε-caprolactone was then added and the polymerisation was continued under stirring for 1.5 hour at room temperature. The reacting compound was poured into 300mi of methanol and the white precipitate was dried under reduced pressure. 11.0 g of block copolymer were thus obtained.

reactant | neopentyl glycol carbonate | 550 mmol | C(O)(=O)OCC(C)(CO)C | C6H12O4
reactant | dichloromethane | 3 ml | ClCCl | CH2Cl2
reactant | isopropyl alcohol | 1 mmol | C(C)(C)O | C3H8O
reactant | dichloromethane | 0.3mmol/ml | ClCCl | CH2Cl2
reactant | ε-caprolactone | 50 mmol | C1(CCCCCO1)=O | C6H10O2
solvent | methanol | CO | CH4O
product | Neopentyl Glycol Carbonate ε-Caprolactone | C(O)(=O)OCC(C)(CO)C.C1(CCCCCO1)=O | InChI=1S/C6H12O4.C6H10O2/c1-6(2,3-7)4-10-5(8)9;7-6-4-2-1-3-5-8-6/h7H,3-4H2,1-2H3,(H,8,9);1-5H2
